US08048909B2
[5-(Pyridin-2-yl)-1H-pyrrol-3-yl]methanol
A solution (30 mL) of ethyl 5-(pyridin-2-yl)-1H-pyrrole-3-carboxylate (1.62 g) in tetrahydrofuran was cooled to −50° C., and a 1.5 mol/L solution (15 mL) of diisobutylaluminum hydride in toluene was added dropwise by small portions. The mixture was further stirred at 0° C. for 1 hr, water (3 mL) was added to the reaction mixture and the mixture was stirred at room temperature for 1 hr. Celite and anhydrous magnesium sulfate were added and the mixture was further stirred for 15 min and filtrated. The obtained filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=1:1→1:3) to give the title compound as colorless crystals (yield 1.15 g, 88%).

reactant | ethyl 5-(pyridin-2-yl)-1H-pyrrole-3-carboxylate | 30 mL, 1.62 g | N1=C(C=CC=C1)C1=CC(=CN1)C(=O)OCC | C12H12N2O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 3 mL | O | H2O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [5-(Pyridin-2-yl)-1H-pyrrol-3-yl]methanol | yield 1.15 g, 88% | N1=C(C=CC=C1)C1=CC(=CN1)CO | C10H10N2O
